US09120749B2
tert-butyl methyl(1-(5-nitropyridin-2-yl)piperidin-3-yl)carbamate
To a solution of tert-butyl methyl(piperidin-3-yl)carbamate (1.00 g, 4.67 mmol) in THF (25 mL) was added triethylamine (0.70 mL, 5.0 mmol) and 2-chloro-5-nitropyridine (500 mg, 3.1 mmol). The reaction mixture was then stirred at room temperature for 16 h, diluted with a saturated NaHCO3 solution and extracted with ethyl acetate. The combined organic layers were dried over anhydrous sodium sulfate and concentrated. Purification by column chromatography (silica, ethyl acetate/hexanes) afforded the desired product (1.03 g, 99%) as a yellow solid. ESI MS m/z 337 [C16H24N4O4+H]+

reactant | tert-butyl methyl(piperidin-3-yl)carbamate | 4.67 mmol, 1.00 g | CN(C(OC(C)(C)C)=O)C1CNCCC1 | C11H22N2O2
reactant | triethylamine | 5.0 mmol, 0.70 mL | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-5-nitropyridine | 3.1 mmol, 500 mg | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | tert-butyl methyl(1-(5-nitropyridin-2-yl)piperidin-3-yl)carbamate | 1.03 g, 99% | CN(C(OC(C)(C)C)=O)C1CN(CCC1)C1=NC=C(C=C1)[N+](=O)[O-] | C16H24N4O4
